US08278336B2
Step 4: 5-fluoro-3,3-dimethyl-2,3-dihydro-1H-indole
Under an argon atmosphere a solution of 9.30 mL (9.30 mmol) of a 1M solution of lithium aluminium hydride in THF and 10 mL THF was slowly added dropwise to 1.40 g (7.81 mmol) 5-fluoro-3,3-dimethyl-1,3-dihydroindol-2-one in 50 mL THF. Then the reaction mixture was heated to 70° C. for 1 h. After cooling 2 mL water were added. The solution was dried on sodium sulphate and filtered off. The solvent was eliminated i. vac.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-fluoro-3,3-dimethyl-1,3-dihydroindol-2-one | 7.81 mmol, 1.40 g | FC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H10FNO
reactant | water | 2 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-fluoro-3,3-dimethyl-2,3-dihydro-1H-indole | FC=1C=C2C(CNC2=CC1)(C)C | C10H12FN
